US08563582B2
tert-Butyl{(1R,3S)-3-[(4-hydroxy-4-phenylpiperidin-1-yl)carbonyl]-3-isopropylcyclopentyl}carbamate
To a solution of (1S,3R)-3-[(tert-butoxycarbonyl)amino]-1-isopropylcyclopentane-carboxylic acid (200 mg, 0.7 mmol), 4-phenylpiperidin-4-ol (140 mg, 0.81 mmol), and triethylamine (0.15 g, 1.5 mmol) in methylene chloride (4 mL) was added (benzotriazol-1-yloxy)tripyrrolidinophosphonium hexafluorophosphate (0.42 g, 0.81 mmol). After being stirred overnight at room temperature, the reaction was quenched by addition of a saturated NaHCO3 solution. The resulting solution was extracted with methylene chloride three times. The combined extracts were dried (MgSO4), filtered, and concentrated. The crude was carried on to the next step without purification. MS calculated for C25H38N2O4: (M+H) 431; found 431.2.

reactant | (1S,3R)-3-[(tert-butoxycarbonyl)amino]-1-isopropylcyclopentane-carboxylic acid | 0.7 mmol, 200 mg | C(C)(C)(C)OC(=O)N[C@H]1C[C@](CC1)(C(=O)O)C(C)C | C14H25NO4
reactant | 4-phenylpiperidin-4-ol | 0.81 mmol, 140 mg | C1(=CC=CC=C1)C1(CCNCC1)O | C11H15NO
reactant | triethylamine | 1.5 mmol, 0.15 g | C(C)N(CC)CC | C6H15N
reactant | (benzotriazol-1-yloxy)tripyrrolidinophosphonium hexafluorophosphate | 0.81 mmol, 0.42 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N2CCCC2)(N2CCCC2)N2CCCC2
solvent | methylene chloride | 4 mL | C(Cl)Cl | CH2Cl2
product | tert-Butyl{(1R,3S)-3-[(4-hydroxy-4-phenylpiperidin-1-yl)carbonyl]-3-isopropylcyclopentyl}carbamate | C(C)(C)(C)OC(N[C@H]1C[C@@](CC1)(C(C)C)C(=O)N1CCC(CC1)(C1=CC=CC=C1)O)=O | C25H38N2O4
